US07037624B2
In 70 mL of tetrahydrofuran (THF), 3 g of vinylene carbonate and 5.1 g of benzenethiol were dissolved, and then 4.7 g of triethylamine was added. The mixture was refluxed under an argon atmosphere for 4 hours. When the reaction was finished, the solvent was removed through distillation under reduced pressure, and the resulting material was subjected to the column chromatography on silica gel (eluted with 20% hexane/ethylacetate) and purified to obtain a target product, 4-phenylsulfanyl-[1,3]dioxolan-2-one.

reactant | vinylene carbonate | 3 g | C1(OC=CO1)=O | C3H2O3
reactant | benzenethiol | 5.1 g | C1(=CC=CC=C1)S | C6H6S
reactant | triethylamine | 4.7 g | C(C)N(CC)CC | C6H15N
solvent | tetrahydrofuran | 70 mL | O1CCCC1 | C4H8O
product | 4-phenylsulfanyl-[1,3]dioxolan-2-one | C1(=CC=CC=C1)SC1OC(OC1)=O | C9H8O3S
